* 10 bit synchronous digital counter
* inhibit at overflow, no revolving
* according to Schreier, Temes: Understanding Delta-Sigma Data Converters, 2005
* Fig. 2.27, p. 58

* clock generation
* PULSE(V1 V2 TD TR TF PW PER)
vclk aclk 0 dc 0 pulse(0 1 1u 2n 2n 1u 2u)

* reset generation
* single pulse, actual value stored in latch and read by DAC
vres ars 0 dc 0 pulse(0 1 1.1m 2n 2n 1u 2.2m)

vone aone 0 dc 1
vzero azero 0 dc 0

* digital one
* digital zero
abridge1 [aone azero] [done dzero] adc_buff
.model adc_buff adc_bridge(in_low = 0.5 in_high = 0.5)

* digital clock
* digital reset
abridge2 [aclk ars] [dclk dreset] adc_buff
.model adc_buff adc_bridge(in_low = 0.5 in_high = 0.5)

XCounter done done dclk dreset dout1 dout2 dout3 dout4 dout5 dout6 dout7 dout8 dout9 dout10 count10
Xlatch dout1 dout2 dout3 dout4 dout5 dout6 dout7 dout8 dout9 dout10
+ dlout1 dlout2 dlout3 dlout4 dlout5 dlout6 dlout7 dlout8 dlout9 dlout10 dreset
+ latch10
Xdac dlout1 dlout2 dlout3 dlout4 dlout5 dlout6 dlout7 dlout8 dlout9 dlout10 adacout dac10 

.include count-latch-dac.cir

.control
tran 1u 2.5m
eprint dout1 dout2 dout3 dout4  dout5 dout6 dout7 dout8 dout9 dout10 > digi4b.txt
eprint dlout1 dlout2 dlout3 dlout4 dlout5 dlout6 dlout7 dlout8 dlout9 dlout10 >> digi4b.txt
plot adacout
.endc

.end
